US08609653B2
To a solution of ethyl 1-(3,4-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (5.0 g, 13.7 mmol) in acetonitrile (100 mL) was added pyridine (1.3 mL, 15.77 mmol) and the mixture was cooled to 0° C. and triflic anhydride (2.55 mL, 15.09 mmol) was added dropwise in ˜10 min. The mixture was stirred at RT for 1 h then charged with sodium iodide (10.28 g, 68.6 mmol) in one portion followed by dropwise addition of hydrochloric acid (7.54 mL, 15.09 mmol) (2 M/water). The mixture was stirred at 60° C. for 2 h. Saturated NaHCO3/water was carefully added and the mixture was concentrated and then partitioned between EtOAc and water. The organic phase was washed with satd. Na2S2O3/water, saturated NaHCO3/water, brine, dried (Na2SO4), concentrated to provide ethyl 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (6.5 g, 12.68 mmol, 92% yield) as a dark oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.46 (t, J=7 Hz, 3 H), 2.65 (s, 3 H), 4.48 (q, J=7 Hz, 2 H), 5.39 (s, 2 H), 6.39 (d, J=3.71 Hz, 1 H), 6.86-7.14 (m, 3 H), 7.17 (d, J=3.71 Hz, 1 H); LCMS (m/z) ES+=457 (M+1).

reactant | ethyl 1-(3,4-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 13.7 mmol, 5.0 g | FC=1C=C(CN2C=CC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC1F | C18H16F2N2O3
reactant | pyridine | 15.77 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 15.09 mmol, 2.55 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium iodide | 68.6 mmol, 10.28 g | [I-].[Na+]
reactant | hydrochloric acid | 15.09 mmol, 2 M, 7.54 mL | Cl | ClH
reactant | NaHCO3 water | C(=O)(O)[O-].[Na+].O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 12.68 mmol, 6.5 g, 92% yield | FC=1C=C(CN2C=CC=3C2=NC(=C(C3I)C(=O)OCC)C)C=CC1F | C18H15F2IN2O2
